US07485283B2
6d. 2-(4-tertbutylbenzyl)thio-3-((2-tetrahydropyranyloxy)methyl) chromen-4-one
Into a 25 mL round bottom flask is introduced 2-ethylsulfinyl-3-((2-tetrahydropyranyloxy)methyl) chromen-4-one (5 g, 14.87 mmol). Acetonitrile is then added to it followed by 4-tertbutylbenzyl mercaptan (74.3 mmol). The reaction mixture is stirred for 10 hours at room temperature after which the solvent is removed in vacuo. The crude residue obtained is purified by silica gel chromatography (ethyl acetate:hexanes) to obtain the product.

reactant | 2-ethylsulfinyl-3-((2-tetrahydropyranyloxy)methyl) chromen-4-one | 14.87 mmol, 5 g | C(C)S(=O)C=1OC2=CC=CC=C2C(C1COC1OCCCC1)=O | C17H20O5S
reactant | 4-tertbutylbenzyl mercaptan | 74.3 mmol | C(C)(C)(C)C1=CC=C(CS)C=C1 | C11H16S
solvent | Acetonitrile | C(C)#N | C2H3N
product | 2-(4-tertbutylbenzyl)thio-3-((2-tetrahydropyranyloxy)methyl) chromen-4-one | C(C)(C)(C)C1=CC=C(CSC=2OC3=CC=CC=C3C(C2COC2OCCCC2)=O)C=C1 | C26H30O4S
